US04532057
1,2-Mixed Pentadecanediol-Octadecanediol Derived Hydrogen Phosphite (3:1)
Approximately 360 g of the 1,2-mixed pentadecanedioloctadecanediol (obtained from Viking Chemical Co. as Vikol 158 containing about 28% 1,2-pentadecanediol, about 28% 1,2-hexadecanediol, about 28% 1,2-heptadecanediol and about 16% 1,2-octadecanediol) were charged to a glass reactor equipped with heater, agitator, Dean-Stark tube with condenser and provision for blanketing the vapor space with nitrogen. The contents were heated to 70° C. to liquify and 55 g of dimethyl hydrogen phosphite were slowly added. The reaction mixture was heated to 110° C. and held for 2 hours, held at 120° C. for 1 hour, and held at 130° C. for 1 hour. During this reaction period, methanol distilled over and condensed into the trap. The crude product was vacuum stripped at 150° C. to remove volatile materials. 379 g of finished additive were produced. The product was an amber fluid which became waxy on cooling.

reactant | 1,2-pentadecanediol | C(C(CCCCCCCCCCCCC)O)O | C15H32O2
reactant | 1,2-hexadecanediol | C(C(CCCCCCCCCCCCCC)O)O | C16H34O2
reactant | 1,2-heptadecanediol | C(C(CCCCCCCCCCCCCCC)O)O | C17H36O2
reactant | 1,2-octadecanediol | C(C(CCCCCCCCCCCCCCCC)O)O | C18H38O2
reactant | dimethyl hydrogen phosphite | 55 g | P(OC)(OC)O | C2H7O3P
solvent | methanol | CO | CH4O
product | Pentadecanediol Octadecanediol | C(CCCCCCCCCCCCCC)(O)O.C(CCCCCCCCCCCCCCCCC)(O)O | InChI=1S/C18H38O2.C15H32O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15(16)17/h18-20H,2-17H2,1H3;15-17H,2-14H2,1H3
